US08536179B2
To a stirred solution of ethanol (5 mL) were added 1-cyclopropyl-1,3-butanedione (505 mg, 3.00 mmol) and cyanoacetamide (252 mg, 3.00 mmol), and the heterogenous contents heated until homogenous (ca. 75° C.). Piperidine was added (0.395 mL, 4.00 mmol) and the mixture was heated at reflux for 30 min. The reaction mixture was allowed to cool to room temperature, wherein precipitation ensued. The solid precipitate was filtered and set aside. The filtrate was concentrated in vacuo and the oily residue treated with minimal EtOAc and then 10 mL hexanes to afford a second crop of solid. The solid product crops were combined, suspended in water (7 mL), vigorously stirred, and vacuum filtered to afford 6-cyclopropyl-4-methyl-2-oxo-1,2-dihydro-3-pyridinecarbonitrile as a nearly white solid (380 mg, 73%). LCMS E-S (M+H)=175.1. 1H NMR (400 MHz, CDCl3) δ ppm 1.01-1.09 (m, 2H), 1.28 (dd, J=8.59, 2.27 Hz, 2H), 1.95-2.01 (m, 1H), 2.43 (s, 3H), 5.82 (s, 1H).

reactant | ethanol | 5 mL | C(C)O | C2H6O
reactant | 1-cyclopropyl-1,3-butanedione | 3.00 mmol, 505 mg | C1(CC1)C(CC(C)=O)=O | C7H10O2
reactant | cyanoacetamide | 3.00 mmol, 252 mg | C(#N)CC(=O)N | C3H4N2O
reactant | Piperidine | N1CCCCC1 | C5H11N
solvent | water | 7 mL | O | H2O
product | 6-cyclopropyl-4-methyl-2-oxo-1,2-dihydro-3-pyridinecarbonitrile | C1(CC1)C1=CC(=C(C(N1)=O)C#N)C | C10H10N2O
